US06589984B1
Triethylamine (606 mg) was added to a solution of 3,5-dimethyl-6-hydroxymethyl-4-methoxymethoxy-2H-pyran-2-one (1.26 g) in THF (50 ml), and after stirring the mixture at room temperature for one hour, methanesulfonyl chloride (1.05 g) was added and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, extraction was performed with AcOEt, and the organic layer was dried with Na2SO4 and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=1/1) to obtain 3,5-dimethyl-4-methoxymethoxy-6-(methylsulfonyloxy) methyl-2H-pyran-2-one.

reactant | Triethylamine | 606 mg | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethyl-6-hydroxymethyl-4-methoxymethoxy-2H-pyran-2-one | 1.26 g | CC=1C(OC(=C(C1OCOC)C)CO)=O | C10H14O5
reactant | methanesulfonyl chloride | 1.05 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3,5-dimethyl-4-methoxymethoxy-6-(methylsulfonyloxy) methyl-2H-pyran-2-one | CC=1C(OC(=C(C1OCOC)C)COS(=O)(=O)C)=O | C11H16O7S
